Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ PMH EtOH Cirrhosis s/p DDLT on ___, 
renal
failure on HD, presenting today with chest pain. He reports
experiencing chest pain with some back pain and headache
immediately following dialysis today. Of note, a cardiac cath
performed in ___ during his workup for liver transplant showed
mild proximal LAD stenosis and 70% distal LAD stenosis. By the
time an ambulance arrived, his pain had resolved. He was taken 
to
a local hospital in ___. An EKG and troponin there was
reportedly normal, and he was transferred to ___. A second
troponin taken on arrival at ___ was also normal. He was found
to be hypertensive to the 180s SBP, which is higher than his
usual ~150 SBP. He takes Carvedilol for his hypertension, which
was increased just last week. Cardiology was consulted to workup
his chest pain, and transplant surgery was consulted given his
recent liver transplant. 

On initial assessment, Mr. ___ denies fever, chills, nausea,
vomiting, shortness of breath, abdominal pain, or dysuria. He
does endorse diarrhea today. 

ROS:
(+) per HPI
(-) 
 
Past Medical History:
hypertension
ETOH cirrhosis
ESRD
.
PSH: 
Liver transplant ___
 
Social History:
___
Family History:
Father with CAD (CABG x2), DM
Mother in her ___ and healthy
No known liver or kidney disease in family 
 
Physical Exam:
Exam on Admission:
Vitals:
98.5F, 80, 176/96, 16, 99%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND, well healed surgical incision, umbilical hernia, R
inguinal hernia 
Ext: No ___ edema, ___ warm and well perfused
TLD: R tunneled dialysis line, site c/d/I w/o erythema or
drainage.  
.
Exam at Discharge:

GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND, well healing abdominal incision. 
Ext: no C/C/E

 
Pertinent Results:
Labs on Admission: ___
WBC-2.8* RBC-2.87* Hgb-8.6* Hct-26.1* MCV-91 MCH-30.0 MCHC-33.0 
RDW-17.2* RDWSD-57.1* Plt Ct-92*
Glucose-145* UreaN-16 Creat-1.7*# Na-140 K-4.8 Cl-101 HCO3-27 
AnGap-12
ALT-6 AST-18 CK(CPK)-19* AlkPhos-43 TotBili-0.4
Lipase-6
Albumin-4.2 Calcium-9.1 Phos-4.4 Mg-1.6
.
___ cTropnT-0.01
___ CK-MB-1 cTropnT-<0.01
___ cTropnT-<0.01
.
Labs At Discharge: ___
WBC-3.0* RBC-2.87* Hgb-8.7* Hct-26.1* MCV-91 MCH-30.3 MCHC-33.3 
RDW-17.2* RDWSD-57.0* Plt ___
Glucose-102* UreaN-21* Creat-2.3* Na-139 K-3.9 Cl-102 HCO3-26 
AnGap-11
ALT-6 AST-13 AlkPhos-44 TotBili-0.3
tacroFK-5.___ PMH EtOH Cirrhosis s/p DDLT ___, and renal failure on HD, 
DM, p/w chest pain following routine hemodialysis session. The 
chest pain resolved by time of admission.
.
On Admission, Troponins were cycled, negative x 3 for evidence 
of MI. A cardiology consult was called and antihypertensive plan 
was developed including increasing carvedilol and starting 
amlodipine with goal of less than 130 systolic. Patient was also 
provided with the name of ___ local to him cardiologist for 
outpatient follow up (Dr. ___. He continued to have 
no chest pain. Blood pressures were variable, but ranging 
between 160 - 180 systolic, so the carvedilol was increased to 
25 mg BID and amlodipine was started at 10 mg daily.
.
Immunosuppression was continued per home regimen, will be 
tapering prednisone on ___. Tacro was initially continued at 
home dose of 6.5 mg BID. Due to level of 5.1, the dose was 
increased to 7.5 mg BID for discharge. Patient was informed of 
this change.
.
Weight noted to still be decreasing, will have outpatient follow 
up with nutrition, as this continues to be a concern.
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluconazole 200 mg PO Q24H 
2. Pantoprazole 40 mg PO DAILY 
3. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
4. ValGANCIclovir 450 mg PO 2X/WEEK (MO,TH) 
5. Mycophenolate Mofetil 1000 mg PO BID 
6. Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN elevated 
potassium 
7. TraZODone 25 mg PO QHS:PRN insomnia 
8. Vancomycin Oral Liquid ___ mg PO Q6H 
9. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
10. PredniSONE 5 mg PO DAILY 
11. Cyanocobalamin 250 mcg PO DAILY 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. CARVedilol 6.25 mg PO BID 
15. Tacrolimus 6.5 mg PO Q12H 
16. Glargine 7 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*11 
2.  PredniSONE 2.5 mg PO DAILY Duration: 7 Days 
Start on ___
Prednisone is completed after the 7 days of 2.5 mg  
3.  CARVedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*11 
4.  Tacrolimus 7.5 mg PO Q12H  
5.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
Maximum 6 of the 325 mg tablets daily  
6.  Aspirin 81 mg PO DAILY  
7.  Cyanocobalamin 250 mcg PO DAILY  
8.  Fluconazole 200 mg PO Q24H  
9.  Glargine 7 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
10.  Multivitamins W/minerals 1 TAB PO DAILY  
11.  Mycophenolate Mofetil 1000 mg PO BID  
12.  Pantoprazole 40 mg PO DAILY  
13.  PredniSONE 5 mg PO DAILY Duration: 1 Day 
For ___.  Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN elevated 
potassium  
15.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
16.  TraZODone 25 mg PO QHS:PRN insomnia  
17.  ValGANCIclovir 450 mg PO 2X/WEEK (MO,TH)  
18.  Vancomycin Oral Liquid ___ mg PO Q6H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
History of liver transplant
Chest pain: resolved
Hypertension
Weight loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever of 
101 or greater, chills, nausea, vomiting, diarrhea, 
constipation, inability to tolerate food, fluids or medications, 
yellowing of skin or eyes, increased abdominal pain, incisional 
redness, drainage or bleeding, dizziness or weakness, decreased 
urine output or dark, cloudy urine, swelling of abdomen or 
ankles, weight gain of 3 pounds in a day or any other concerning 
symptoms.
.
Bring your pill box and list of current medications to every 
clinic visit.
.
You will have labwork drawn twice weekly as arranged by the 
transplant clinic, with results to the transplant clinic (Fax 
___ . CBC, Chem 10, AST, ALT, Alk phos, T Bili, Trough 
Tacro level.
.
*** On the days you have your labs drawn, do not take your 
Tacrolimus until your labs are drawn. Bring your Tacrolimus with 
you so you may take your medication as soon as your labwork has 
been drawn.
.
Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.
.
Continue outpatient dialysis as directed 
(___)
.
You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air as it is 
well healed. 
.
Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.
.
Check your blood pressure at home. Report consistently elevated 
values above 160 or less than 110 systolic to the transplant 
clinic. Please make an appointment with the cardiologist 
recommended to you, Dr. ___.
.
Check blood sugars and treat as recommended per home scale.
.
Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant.
.
Consult transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise

 
Followup Instructions:
___